US04590188
A mixture of 0.828 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-7-methoxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 0.307 g of potassium hydroxide and 15 ml of dimethylsulfoxide is stirred at room temperature for 2 hours, and then 0.396 g of 2-(dimethylamino)ethyl chloride hydrochloride is added thereto. The mixture is stirred at room temperature for 16 hours. After the reaction is completed, the mixture is poured into ice-water, and the aqueous solution is extracted with ethyl acetate. The ethyl acetate solution is extracted with a 10% hydrochloric acid solution. The extract is adjusted to about pH 10 with potassium carbonate. The alkaline solution is extracted witn ethyl acetate, and the extract is washed with water, dried and then evaporated to remove solvent. The residue is recrystallized from a mixture of ethyl acetate and n-hexane. 0.82 g of (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-7-methoxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one is obtained. Yield: 82%

reactant | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-7-methoxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.828 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=C(C=C2)OC | C17H17NO4S
reactant | potassium hydroxide | 0.307 g | [OH-].[K+]
reactant | 2-(dimethylamino)ethyl chloride hydrochloride | 0.396 g | Cl.CN(CCCl)C
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | (±)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-7-methoxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.82 g, Yield: 82% | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=C(C=C2)OC | C21H26N2O4S
